US05428065
A solution of diisobutylaluminium hydride in toluene (3.1 ml, 4.6 mmol) was added dropwise to a stirred solution of 2-(9-phenylnonyl)-1,3-benzenedicarbonitrile (0.70 g, 2.1 mmol) in dry toluene (30 ml) under nitrogen, cooled in an ice bath. After one hour at room temperature methanol (1 ml) was added cautiously, followed by methanol:water (1:1, 1 ml) and 5M hydrochloric acid (15 ml). The mixture was extracted with diethyl ether (20 ml) and the extracts dried, filtered and evaporated to a yellow oil (0.8 g). Chromatography on flash silica eluting with dichloromethane gave 2-(9-phenylnonyl)-1,3benzenedicarboxaldehyde as a colourless oil.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-(9-phenylnonyl)-1,3-benzenedicarbonitrile | 2.1 mmol, 0.70 g | C1(=CC=CC=C1)CCCCCCCCCC1=C(C=CC=C1C#N)C#N | C23H26N2
reactant | methanol | 1 ml | CO | CH4O
reactant | hydrochloric acid | 5M, 15 ml | Cl | ClH
reactant | methanol water | 1 ml | CO.O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.6 mmol, 3.1 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(9-phenylnonyl)-1,3benzenedicarboxaldehyde | C1(=CC=CC=C1)CCCCCCCCCC1=C(C=CC=C1C=O)C=O | C23H28O2
